US08349827B2
Step 2: Preparation of N-(3-chlorobenzyl)-9H-benzo[b]pyrido[3,2-f]pyrimido[5,4-d]azepin-2-amine
A mixture of (E)-6-((diethylamino)methylene)-6,11-dihydro-5H-benzo[f]pyrido[2,3-b]azepin-5-one (0.1 g, 0.38 mmol), 1-(3-chlorobenzyl)guanidinium chloride (2 equivalents), and sodium ethoxide (21% solution in ethanol) (1.9 equivalents) in absolute ethanol (3 mL) was heated at 80° C. overnight. The reaction mixture was cooled and diluted with dichloromethane (10 mL), washed with water (2×5 mL), dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by flash column chromatography (SiO2, 50% ethyl acetate in hexane) to give the pure desired product as solid. 400 MHz 1H NMR (DMSO-d6) δ 8.34 (s, 1H), 8.23 (s, 1H), 8.15 (s, 2H), 8.00 (t, J=6.0 Hz, 1H), 7.42 (s, 1H), 7.37-7.27 (m, 4H), 7.21-7.14 (m, 2H), 7.08-7.04 (m, 2H), 4.57 (d, J=5.2 Hz, 2H); LCMS (M+H)=386.

reactant | (E)-6-((diethylamino)methylene)-6,11-dihydro-5H-benzo[f]pyrido[2,3-b]azepin-5-one | 0.38 mmol, 0.1 g | C(C)N(CC)\C=C/1\C(C2=C(NC3=C1C=CC=C3)N=CC=C2)=O | C18H19N3O
reactant | 1-(3-chlorobenzyl)guanidinium chloride | 2 equivalents | [Cl-].ClC=1C=C(CNC(=[NH2+])N)C=CC1
reactant | sodium ethoxide | 1.9 equivalents | [O-]CC.[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(3-chlorobenzyl)-9H-benzo[b]pyrido[3,2-f]pyrimido[5,4-d]azepin-2-amine | ClC=1C=C(CNC=2N=CC=3C4=C(NC5=C(C3N2)C=CC=N5)C=CC=C4)C=CC1 | C22H16ClN5
